US06156758
2-Chloro-4,6,7-trimethoxyquinazoline (QME).
Sodium methoxide (0.12 g, 2.2 mmole) was added to a solution of 2,4-dichloro-6,7-dimethoxyquinazoline (0.52 g, 2 mmol) in methanol (20 mL) at 25° C. The mixture was stirred at 25° C. for 12 h and was concentrated in vacuo to give a white solid residue. Purification of the residue by flash column chromatography (gradient elution 30 to 60% EtOAc/hexanes) provided the title compound (0.51 g, quantitative yield): TLC (Rf =0.50; CH2Cl2); 1H NMR (CDCl3) δ 7.33 (s, 1H), 7.21 (s, 1H), 4.20 (s, 3H), 4.01 (s, 6H); 13C NMR (CDCl3) δ 166.9, 156.1, 154.3, 149.8, 149.5, 109.0, 106.2, 101.4, 56.4, 56.3, 55.0; HRMS (FAB) m/z 255.0531 (M+H)+ (C11H11N2O3Cl requires 255.0536); Anal. (C11H11N2O3Cl·1/2H2O·1/4CH3OH) C, H, N.

reactant | Sodium methoxide | 2.2 mmole, 0.12 g | C[O-].[Na+]
reactant | 2,4-dichloro-6,7-dimethoxyquinazoline | 2 mmol, 0.52 g | ClC1=NC2=CC(=C(C=C2C(=N1)Cl)OC)OC | C10H8Cl2N2O2
solvent | methanol | 20 mL | CO | CH4O
product | 2-Chloro-4,6,7-trimethoxyquinazoline | 0.51 g, quantitative yield | ClC1=NC2=CC(=C(C=C2C(=N1)OC)OC)OC | C11H11ClN2O3
